US07582543B2
Zinc oxide (0.08 g, 1 mmol) and tetradecylcarboxylic acid (0.500 g) were reacted at 220° C for 10 min, cooled to 90° C., then a zinc tetradecylcarboxylate (precursor) was formed. Into said system, toluene (10 ml), trioctylphosphine oxide (3.866 g) and trioctylphosphine (3.7 g) were added. Then a 0.05M aqueous solution of sodium hydrogen selenide (10 ml) was added. After the system was reacted at 90° C. for 3 h, a clear yellow sol containing the ZnSe nanoparticles was obtained. Said sol has a typical exciton absorption peak of the ZnSe nanoparticles, can result in a quantum size effect and emit a fairly strong blue light under the irradiation of a UV lamp.

reactant | Zinc oxide | 1 mmol, 0.08 g | [O-2].[Zn+2]
reactant | tetradecylcarboxylic acid | 0.500 g | C(CCCCCCCCCCCCC)C(=O)O | C15H30O2
product | zinc tetradecylcarboxylate | C(CCCCCCCCCCCCC)C(=O)[O-].[Zn+2].C(CCCCCCCCCCCCC)C(=O)[O-] | InChI=1S/2C15H30O2.Zn/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15(16)17;/h2*2-14H2,1H3,(H,16,17);/q;;+2/p-2
